US08609627B2
(2R)-ethyl 2-(chloro(2-(3-methoxy-3-oxopropyl)phenoxy)phosphorylamino)propanoate (82)
Methyl 3-(2-(dichlorophosphoryloxy)phenyl)propanoate, 81 (2.77 mmol) and L-alanine methyl ester hydrochloride (0.42 g, 2.77 mmol) were suspended in anhydrous dichloromethane (10 mL). Anhydrous triethylamine (0.37 mL, 2.77 mmol) and dichloromethane (5 mL) were added dropwise at −78° C. under nitrogen. Following the addition, the reaction mixture was slowly warmed to it and stirred overnight. The solvent was removed under reduced pressure; the solid was washed with anhydrous ether (20 mL×2), and filtered. The filtrate was concentrated to a residue to give crude product as an oil. Dilution with THF (2.77 mL) gave a 1 M solution, which was used in the following step without any further purification.

reactant | Methyl 3-(2-(dichlorophosphoryloxy)phenyl)propanoate | ClP(=O)(Cl)OC1=C(C=CC=C1)CCC(=O)OC | C10H11Cl2O4P
reactant | L-alanine methyl ester hydrochloride | 2.77 mmol, 0.42 g | Cl.COC([C@@H](N)C)=O
reactant | triethylamine | 2.77 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 2.77 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (2R)-ethyl 2-(chloro(2-(3-methoxy-3-oxopropyl)phenoxy)phosphorylamino)propanoate | 1 M | ClC=1C(=C(OP(=O)=N[C@@H](C(=O)OCC)C)C=CC1)CCC(=O)OC | C15H19ClNO6P
